US05002942
2-Amino-6-(4-fluorophenoxy)benzothiazole
13 ml of acetic acid containing 6.5 ml of bromine were added dropwise at 13 to 15° C. to a solution of 25.6 g of 4-(4-fluorophenoxy)aniline and 19.2 g of ammonium thiocyanate in 185 ml of acetic acid. After completion of the addition, the mixture was stirred at room temperature for 1 hour and then the solvent was distilled off under reduced pressure. The residue was mixed with 300 ml of ethyl acetate and 200 ml of water, and the mixture was neutralized by adding powered potassium carbonate. The ethyl acetate layer was then separated and dried over anhydrous magnesium sulfate, and then the residue was concentrated by evaporation under reduced pressure. The crystalline residue was washed with diisopropyl ether to afford 26.7 g of the title compound, melting at 126-128° C.

reactant | bromine | BrBr | Br2
reactant | 4-(4-fluorophenoxy)aniline | 25.6 g | FC1=CC=C(OC2=CC=C(N)C=C2)C=C1 | C12H10FNO
reactant | ammonium thiocyanate | 19.2 g | [S-]C#N.[NH4+]
solvent | acetic acid | 185 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 13 ml | C(C)(=O)O | C2H4O2
product | 2-Amino-6-(4-fluorophenoxy)benzothiazole | 26.7 g | NC=1SC2=C(N1)C=CC(=C2)OC2=CC=C(C=C2)F | C13H9FN2OS
